2189-05-22 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2189-5-21**] 09:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2189-5-21**] 08:00 PM
   Ciprofloxacin - [**2189-5-22**] 12:23 AM
   Metronidazole - [**2189-5-22**] 01:14 AM
   Ceftazidime - [**2189-5-22**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2189-5-21**] 04:02 PM
   Pantoprazole (Protonix) - [**2189-5-21**] 07:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2189-5-22**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 91 (81 - 99) bpm
   BP: 93/68(73) {86/54(62) - 101/71(77)} mmHg
   RR: 16 (16 - 18) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 7 (4 - 11)mmHg
   Total In:
                                                                  3,000 mL
                                                                  1,082 mL
   PO:
   TF:
                                                                    103 mL
   IVF:
                                                                  2,620 mL
                                                                    929 mL
   Blood products:
   Total out:
                                                                  2,655 mL
                                                                  1,880 mL
   Urine:
                                                                  2,580 mL
                                                                  1,880 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                    345 mL
                                                                   -798 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), coarse upper airway sounds heard bilaterally
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   189 K/uL
   7.8 g/dL
   115 mg/dL
   0.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   12 mg/dL
   113 mEq/L
   144 mEq/L
   25.7 %
   8.4 K/uL
        [image002.jpg]
                             [**2189-5-20**]  11:58 AM
                             [**2189-5-20**]  03:44 PM
                             [**2189-5-20**]  09:18 PM
                             [**2189-5-21**]  12:50 AM
                             [**2189-5-21**]  05:10 AM
                             [**2189-5-21**]  04:42 PM
                             [**2189-5-22**]  06:00 AM
   WBC
   16.9
   9.7
   8.4
   Hct
   27.3
   27
   25.3
   25.1
   25.5
   24.0
   25.7
   Plt
   186
   178
   189
   Cr
   0.7
   0.3
   0.3
   0.2
   0.2
   0.2
   TCO2
   30
   Glucose
   179
   164
   133
   138
   117
   150
   115
   Other labs: Lactic Acid:1.0 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   A/P: 52 yo male with ALS, chronically vent dependent with G tube,
   presents with severe constipation, hematemesis and sepsis now HD stable
   # Sepsis: febrile and hypotensive.  Proteus in urine > 100,000
   otherwise no other + culture data.
   -on vanc ceftaz cipro and flagyl
   -given GNR in sputum and proteus in urine can cover with ceftaz / cipro
   / flagyl and d/c vancomycin
   -PICC Line- needs to go to IR to have changed over wire (placed as
   midline)
   -c diff negative x 1- repeat x 2
   -wbc improved
   -f/u culture data
   # Abdominal Distention: Patient has been having increasing abdominal
   distention. Seems that he has had chronic problem with constipation. No
   evidence of obstruction on KUB or CT scan.  Surgery saw in ED and
   disimpacted. Clinically improving with aggressive bowel regimen
   - Lactulose 30 ml QID, titrate to BM
   - prn enemas
   - restart tube feeds
   # Hematemesis:  Has history of bleed due to ulceration around G tube
   site. HCT currently stable. No output for NG or G-tube
   - daily hct unless bleeds
   - monitor output of G tube for blood
   - GI aware
 plan for conservative management given iinfection and
   stable HCT
   - Hold ASA for now
   - active type and crossmatch
   - [**Hospital1 **] PPI
   # Chronic vent dependence/respiratory failure: Currently satting well.
   Does have significant secretions
 resp culture pending as above
   - HOB >15 degrees
   - mouth care
   - will wean down FIO2 to 40%
   # ALS: continue baclofen
   # Psych: continue zoloft, remeron
   # Glucose intolerance: regular insulin sliding scale
   #FEN: tube feeds, replete lytes
   #ACCESS: d/c  left midline, R subclavian placed on [**5-20**]
   #PPx: SQ heparin, has IVC filter in
   #CODE: DNR and do not rehospitalize after this hospitalization
   #COMMUNICATION: Patient wife [**Name (NI) 3115**] ([**Name2 (NI) **]-only speaking)
   #DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-5-22**] 02:41 AM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-5-20**] 11:00 AM
   Multi Lumen - [**2189-5-20**] 08:39 PM
   PICC Line - [**2189-5-21**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin, IVC filter
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2189-05-22 10:17:00 Physician Attending Progress Note
Chief Complaint: resp failure, sepsis, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2189-5-21**] 09:00 PM but only midline and has to go
   back to IR for repositioning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2189-5-22**] 12:23 AM
   Ceftazidime - [**2189-5-22**] 06:00 AM
   Vancomycin - [**2189-5-22**] 07:45 AM
   Metronidazole - [**2189-5-22**] 08:42 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-5-22**] 08:16 AM
   Heparin Sodium (Prophylaxis) - [**2189-5-22**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-5-22**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.8
   HR: 108 (81 - 108) bpm
   BP: 107/68(78) {86/54(62) - 107/71(78)} mmHg
   RR: 16 (16 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 10 (4 - 11)mmHg
   Total In:
                                                                  3,000 mL
                                                                  1,561 mL
   PO:
   TF:
                                                                    147 mL
   IVF:
                                                                  2,620 mL
                                                                  1,283 mL
   Blood products:
   Total out:
                                                                  2,655 mL
                                                                  2,340 mL
   Urine:
                                                                  2,580 mL
                                                                  2,340 mL
   NG:
                                                                     75 mL
   Stool:
   Drains:
   Balance:
                                                                    345 mL
                                                                   -779 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: ///24/
   Ve: 7.3 L/min
   Physical Examination
   Lying in bed, eyes open
   CV: RR
   Chest: fair air movement no wheezes
   Abd: distended, +BS
   Ext: warm, + edema
   Labs / Radiology
   7.8 g/dL
   189 K/uL
   115 mg/dL
   0.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   12 mg/dL
   113 mEq/L
   144 mEq/L
   25.7 %
   8.4 K/uL
        [image002.jpg]
                             [**2189-5-20**]  11:58 AM
                             [**2189-5-20**]  03:44 PM
                             [**2189-5-20**]  09:18 PM
                             [**2189-5-21**]  12:50 AM
                             [**2189-5-21**]  05:10 AM
                             [**2189-5-21**]  04:42 PM
                             [**2189-5-22**]  06:00 AM
   WBC
   16.9
   9.7
   8.4
   Hct
   27.3
   27
   25.3
   25.1
   25.5
   24.0
   25.7
   Plt
   186
   178
   189
   Cr
   0.7
   0.3
   0.3
   0.2
   0.2
   0.2
   TCO2
   30
   Glucose
   179
   164
   133
   138
   117
   150
   115
   Other labs: Lactic Acid:1.0 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
   52 yo man ALS, sepsis, resp secretions with GNR, proteus uti, colonic
   distension.
   Sepsis: resolved, treating Proteus in urine intially with
   vanc/ceftaz/flagyl and received dose of zosyn on arrival.
   Drug rash. Switch to vanc/ceftaz/cipro/flagyl until we have repeat
   CDiff tox neg and [**Last Name (un) **] on sputum, urine. Keep vanco until 48 hrs NG on
   blood cx.
   Will d/c Vanco, and Flagyl, keep on Cipro, switch to Aztreonam and
   follow up sensi
   Resp: Vent- decreased FIo2 back to baseline
   Hematemesis attributable to PEG. Has not recurred. GI plan to cauterize
   if recurs.
   Colonic distension much improved after disimpaction, gastric suction.
   Restart PEG feeds.
   Remainder of issues as per housestaff notes
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2189-5-22**] 02:41 AM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2189-5-20**] 11:00 AM
   Multi Lumen - [**2189-5-20**] 08:39 PM
   PICC Line - [**2189-5-21**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   Communication: Family meeting held  - DNR/and likely no plan for repeat
   hospitalization after this admission
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes